US04526978
5-p-Toluenesulfonyltetrazole
A mixture of p-toluenesulfonyl cyanide (0.0 g.) and excess hydrazoic acid in 50 ml. of benzene is stirred at room temperature for 20 hours. The product is filtered off, dissolved in ether, filtered through celite and evaporated to a solid which on trituration with benzene has a melting point, 133°-135° C.

reactant | p-toluenesulfonyl cyanide | 0.0 g | C1(=CC=C(C=C1)S(=O)(=O)C#N)C | C8H7NO2S
reactant | hydrazoic acid | N=[N+]=[N-] | HN3
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-p-Toluenesulfonyltetrazole | C1(=CC=C(C=C1)S(=O)(=O)C1=NN=NN1)C | C8H8N4O2S
